### PR TITLE
More finset

### PR DESCRIPTION
**Pull request by traiansf**
Refactoring PR #109

### CODE REVIEW

File: theories/VLSM/Lib/Measurable.v [hunk 1]
```diff
@@ -13,80 +13,131 @@ Class Measurable (V : Type) : Type :=
...
+  fold_right (fun v r => (proj1_sig (weight v) + r)%R) 0%R vs.
+
+Lemma sum_weights_list_rew (l : Cv) :
+  sum_weights l = sum_weights_list (elements l).
+Proof. done. Qed.
+
+Lemma sum_weights_empty :
+  forall (l : Cv), l ≡ ∅ -> sum_weights l = 0%R.
+Proof.
+  intros l Hl. unfold sum_weights, set_fold; cbn. by apply elements_empty_iff in Hl as ->.
```
Comment (wkolowski) [inline theories/VLSM/Lib/Measurable.v:35]:
```suggestion
  intros l Hl.
  unfold sum_weights, set_fold; cbn.
  by apply elements_empty_iff in Hl as ->.
```

File: theories/VLSM/Lib/Measurable.v [hunk 2]
```diff
@@ -13,80 +13,131 @@ Class Measurable (V : Type) : Type :=
...
   destruct (weight a); cbn.
   by apply Rlt_le.
 Qed.
 
+Lemma sum_weights_positive
+  (l : Cv)
+  : (0 <= sum_weights l)%R.
+Proof.
+  rewrite sum_weights_list_rew. apply sum_weights_positive_list.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Lib/Measurable.v:53]:
```suggestion
Lemma sum_weights_positive (l : Cv) :
  (0 <= sum_weights l)%R.
Proof.
  rewrite sum_weights_list_rew.
  by apply sum_weights_positive_list.
Qed.
```

File: theories/VLSM/Lib/Measurable.v [hunk 3]
```diff
@@ -13,80 +13,131 @@ Class Measurable (V : Type) : Type :=
...
+  - apply Rplus_eq_compat_l, Rle_antisym; apply sum_weights_subseteq_list.
+    + by apply set_remove_nodup, NoDup_elements.
+    + by apply NoDup_elements.
+    + intro. rewrite elem_of_elements. intros Hx. apply set_remove_iff. apply StdppListSet.set_remove_iff in Hx; [| by apply NoDup_elements].
+      by rewrite elem_of_elements in Hx.
+    + by apply NoDup_elements.
+    + by apply set_remove_nodup, NoDup_elements.
+    + intro. rewrite elem_of_elements. intros Hx. apply StdppListSet.set_remove_iff; [by apply NoDup_elements |]. apply set_remove_iff in Hx.
+      by rewrite elem_of_elements.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Lib/Measurable.v:132]:
```suggestion
Lemma sum_weights_in :
  forall v (vs : Cv),
    v ∈ vs -> sum_weights vs = (proj1_sig (weight v) + sum_weights (set_remove v vs))%R.
Proof.
  intros v vs Hv.
  rewrite sum_weights_list_rew, sum_weights_in_list with (v := v); cycle 1.
  - by apply NoDup_elements.
  - by apply elem_of_elements.
  - apply Rplus_eq_compat_l, Rle_antisym; apply sum_weights_subseteq_list.
    + by apply set_remove_nodup, NoDup_elements.
    + by apply NoDup_elements.
    + intros x Hx.
      rewrite elem_of_elements.
      apply set_remove_iff.
      apply StdppListSet.set_remove_iff in Hx; [| by apply NoDup_elements].
      by rewrite elem_of_elements in Hx.
    + by apply NoDup_elements.
    + by apply set_remove_nodup, NoDup_elements.
    + intros x Hx.
      rewrite elem_of_elements in Hx.
      apply StdppListSet.set_remove_iff; [by apply NoDup_elements |].
      apply set_remove_iff in Hx.
      by rewrite elem_of_elements.
Qed.
```

**Review by wkolowski — APPROVED** [review]
Lots of tiny improvements were needed, but otherwise looks ok.

**Comment by wkolowski** [comment]
@traiansf Please double-check that everything was merged/rebased correctly.
